US05804601
4) Methyl 6-(1,4-Dimethoxy-3-methylnaphthalen-2-yl)-6-(4-hydroxyphenyl)hexanoate
To a solution of 25.6 g of 6-(1,4-dimethoxy-3-methylnaphthalen-2-yl)-5-hexenoic acid and 23 g of phenol in 250 ml of methylene chloride was added 20.6 ml of boron trifluoride diethyl ether complex at 0° C. The solution was stirred at room temperature for 24 hours and poured into ice-water. The organic layer was separated, washed, dried, and evaporated. The residue was dissolved in 400 ml of methanol and 8 ml of c.HCl . The solution was heated at 60° C. for 1 hour, and the solvent was removed by evaporation. The residue was purified with column chromatography over silica gel using n-hexane/ethyl acetate (7/1-2/1) as an eluent to give 20.5 g of the titled compound as an oil.

reactant | 6-(1,4-dimethoxy-3-methylnaphthalen-2-yl)-5-hexenoic acid | 25.6 g | COC1=C(C(=C(C2=CC=CC=C12)OC)C)C=CCCCC(=O)O | C19H22O4
reactant | phenol | 23 g | C1(=CC=CC=C1)O | C6H6O
reactant | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
product | Methyl 6-(1,4-Dimethoxy-3-methylnaphthalen-2-yl)-6-(4-hydroxyphenyl)hexanoate | 20.5 g | COC1=C(C(=C(C2=CC=CC=C12)OC)C)C(CCCCC(=O)OC)C1=CC=C(C=C1)O | C26H30O5
